US07888349B2
A solution of tert-butyl 3-[(7-bromo-3-nitroquinolin-4-yl)amino]propylcarbamate (56.4 g, 133 mmol) in dichloromethane (150 mL) and ethyl acetate (500 mL) and 5% platinum on carbon (15.52 g, 79.56 mmol) were added to a hydrogenation vessel, which was placed under hydrogen pressure (50 psi, 3.4×105 Pa) and shaken overnight. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was dried under reduced pressure to provide 52.17 g of tert-butyl 3-[(3-amino-7-bromoquinolin-4-yl)amino]propylcarbamate.

reactant | tert-butyl 3-[(7-bromo-3-nitroquinolin-4-yl)amino]propylcarbamate | 133 mmol, 56.4 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCNC(OC(C)(C)C)=O | C17H21BrN4O4
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum on carbon | 79.56 mmol, 15.52 g | [Pt] | Pt
product | tert-butyl 3-[(3-amino-7-bromoquinolin-4-yl)amino]propylcarbamate | 52.17 g | NC=1C=NC2=CC(=CC=C2C1NCCCNC(OC(C)(C)C)=O)Br | C17H23BrN4O2
